US09126970B2
Step a): Bis(9,9-dimethyl-9H-fluoren-2-yl)amine
81 g of 2-bromo-9,9-dimethyl-9H-fluorene (300 mmol), 93 g of 2-amino-9,9-dimethyl-9H-fluorene (444 mmol), 5 g of DPPF (9 mmol), 2 g of palladium(II) acetate and 86 g of sodium tert-butoxide (486 mmol) are heated at the boil for 18 h in 1.5 l of toluene under a protective-gas atmosphere. The mixture is subsequently partitioned between toluene and water, the organic phase is washed three times with water, dried over Na2SO4 and evaporated in a rotary evaporator. The residue which remains is recrystallised from heptane/ethyl acetate. The yield is 93 g (231 mmol, 77%).

reactant | 2-bromo-9,9-dimethyl-9H-fluorene | 300 mmol, 81 g | BrC1=CC=2C(C3=CC=CC=C3C2C=C1)(C)C | C15H13Br
reactant | 2-amino-9,9-dimethyl-9H-fluorene | 444 mmol, 93 g | NC1=CC=2C(C3=CC=CC=C3C2C=C1)(C)C | C15H15N
reactant | sodium tert-butoxide | 486 mmol, 86 g | CC(C)([O-])C.[Na+]
solvent | toluene | 1.5 l | C1(=CC=CC=C1)C | C7H8
catalyst | DPPF | 9 mmol, 5 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | palladium(II) acetate | 2 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Bis(9,9-dimethyl-9H-fluoren-2-yl)amine | CC1(C2=CC=CC=C2C=2C=CC(=CC12)NC1=CC=2C(C3=CC=CC=C3C2C=C1)(C)C)C | C30H27N
